US08304557B2
tert-butyl (2-fluoro-5-hydroxyphenyl)carbamate
A mixture of 3-[(tert-butoxycarbonyl)amino]-4-fluorophenyl tert-butyl carbonate (33.1 g, 101 mmol), sodium methoxide (6.55 g, 121 mmol) and methanol (500 mL) was stirred at 40° C. for 15 hr. The reaction mixture was concentrated under reduced pressure, and ethyl acetate and water were added to the residue. The organic layer was separated, washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was dried to give the title compound (22.8 g, quant.) as a yellow oil.

reactant | 3-[(tert-butoxycarbonyl)amino]-4-fluorophenyl tert-butyl carbonate | 101 mmol, 33.1 g | C(OC1=CC(=C(C=C1)F)NC(=O)OC(C)(C)C)(OC(C)(C)C)=O | C16H22FNO5
reactant | sodium methoxide | 121 mmol, 6.55 g | C[O-].[Na+]
solvent | methanol | 500 mL | CO | CH4O
product | tert-butyl (2-fluoro-5-hydroxyphenyl)carbamate | 22.8 g | FC1=C(C=C(C=C1)O)NC(OC(C)(C)C)=O | C11H14FNO3
